US04629797
Methyl 2-(4-bromo-3-hydroxybutanamido)acetate
1.5g Methyl 2-(4-bromo-3-oxobutanamido)acetate is dissolved in 15 ml dimethoxyethane. The solution is cooled to 0° C. and 60 mg NaBH4 is added. After 5 min, the solvent is evaporated in vacuo and the residue is chromatographed on silica, eluting with ethyl acetate. The title compound is obtained as a white powder, m.p. 60°-61° C.

reactant | Methyl 2-(4-bromo-3-oxobutanamido)acetate | 1.5g | BrCC(CC(=O)NCC(=O)OC)=O | C7H10BrNO4
reactant | NaBH4 | 60 mg | [BH4-].[Na+]
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
product | Methyl 2-(4-bromo-3-hydroxybutanamido)acetate | BrCC(CC(=O)NCC(=O)OC)O | C7H12BrNO4
